US08378107B2
Step 1: [3-(2-{[Ethyl-(2-methoxy-acetyl)-amino]-methyl}-quinolin-3-yl)-4-methoxy-phenyl]-acetic acid ethyl ester
Prepared according to the procedure described in Example 5, Step 5, using the following starting materials: [3-(2-ethylaminomethyl-quinolin-3-yl)-4-methoxy-phenyl]-acetic acid ethyl ester, dihydrochloride and methoxyacetyl chloride.

reactant | [3-(2-ethylaminomethyl-quinolin-3-yl)-4-methoxy-phenyl]-acetic acid ethyl ester, dihydrochloride | Cl.Cl.C(C)OC(CC1=CC(=C(C=C1)OC)C=1C(=NC2=CC=CC=C2C1)CNCC)=O
reactant | methoxyacetyl chloride | COCC(=O)Cl | C3H5ClO2
product | [3-(2-{[Ethyl-(2-methoxy-acetyl)-amino]-methyl}-quinolin-3-yl)-4-methoxy-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)C=1C(=NC2=CC=CC=C2C1)CN(C(COC)=O)CC)=O | C26H30N2O5
